US08609691B2
c) 6-(trans-4-Amino-cyclohexyloxy)-2-(4-methoxy-benzyl)-7-methyl-2H-isoquinolin-1-one
To a solution of 1.48 g (9.75 mmol) of trans-4-aminocyclohexanol hydrochloride in 20 ml of dimethylacetamide where added 1.95 g (48.77 mmol) of sodium hydride (60%) and the mixture was stirred for 15 minutes. Subsequently 2.90 g (9.75 mmol) of 6-fluoro-2-(4-methoxy-benzyl)-7-methyl-2H-isoquinolin-1-one in 30 ml of dimethylacetamide were added and the reaction mixture was heated to 80° C. for 2 days. After cooling the mixture was poured into 300 ml of ice water and the precipitated crude product was purified by chromatography. First the remaining starting material was eluted with ethyl acetate/heptane (2:1) und finally the desired product was eluted by pure methanol giving 1.98 g 6-(trans-4-amino-cyclohexyloxy)-2-(4-methoxy-benzyl)-7-methyl-2H-isoquinolin-1-one.

reactant | trans-4-aminocyclohexanol hydrochloride | 9.75 mmol, 1.48 g | Cl.N[C@@H]1CC[C@H](CC1)O
reactant | sodium hydride | 48.77 mmol, 1.95 g | [H-].[Na+]
reactant | 6-fluoro-2-(4-methoxy-benzyl)-7-methyl-2H-isoquinolin-1-one | 9.75 mmol, 2.90 g | FC=1C=C2C=CN(C(C2=CC1C)=O)CC1=CC=C(C=C1)OC | C18H16FNO2
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 30 ml | CC(=O)N(C)C | C4H9NO
product | 6-(trans-4-Amino-cyclohexyloxy)-2-(4-methoxy-benzyl)-7-methyl-2H-isoquinolin-1-one | N[C@@H]1CC[C@H](CC1)OC=1C=C2C=CN(C(C2=CC1C)=O)CC1=CC=C(C=C1)OC | C24H28N2O3
